US06579883B1
4-Amino-8-chloro-3a-fluoro-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline
90 mg (0.35 mmol) of 8-chloro-3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione is dissolved in 20 ml of 7 M methanolic ammonia solution. After 2 hours of stirring at room temperature, the batch is concentrated by evaporation in a vacuum, and the residue is purified by column chromatography on silica gel with ethyl acetate: 73 mg of product, melting point 223° C.

reactant | 8-chloro-3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | 0.35 mmol, 90 mg | ClC1=CC=2C3C(C(NC2C=C1)=S)(CCC3)F | C12H11ClFNS
reactant | ammonia | 7 M, 20 ml | N | H3N
product | 4-Amino-8-chloro-3a-fluoro-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline | NC1=NC=2C=CC(=CC2C2C1(CCC2)F)Cl | C12H12ClFN2
